US04116956
To a suspension of 1.35 parts of 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine in 25 parts by volume of methanol are added 0.6 part of 2-methylimidazole hydrochloride and 6 parts by volume of 1 mole methanol solution of hydrazine hydrate. The mixture is stirred at room temperature for 1.5 hours, followed by addition of 4.8 parts of ethyl orthoacetate and 10 parts by volume of ethanol containing 10% hydrogen chloride. The mixture is refluxed for 30 minutes, followed by evaporation of the solvent. The residue is neutralized with saturated aqueous sodium bicarbonate and extracted with methylene chloride. The methylene chloride extract is washed with water and dried over sodium sulfate, followed by evaporation of the solvent. The residue is purified by means of silica gel column-chromatography to give 8-chloro-1-methyl-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine. Recrystallization from a mixture of acetone and n-hexane affords colorless needles. Melting point: 225° C to 226° C.

reactant | 2-amino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C15H12ClN3
reactant | 2-methylimidazole hydrochloride | Cl.CC=1NC=CN1
reactant | hydrazine hydrate | O.NN
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | methanol | 1 mole | CO | CH4O
product | 8-chloro-1-methyl-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C17H13ClN4
